US07319104B2
2-(4-{2-[[2,4-Bis(trifluoromethyl)benzyl](6-chloropyridazin-3-yl)amino]ethyl}phenoxy)-2-methylpropanoic acid
Similarly prepared from methyl 2-[4-(2-{[2,4-bis(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate and 3,6-dichloropyridazine.

reactant | methyl 2-[4-(2-{[2,4-bis(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | FC(C1=C(CNCCC2=CC=C(OC(C(=O)OC)(C)C)C=C2)C=CC(=C1)C(F)(F)F)(F)F | C22H23F6NO3
reactant | 3,6-dichloropyridazine | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
product | 2-(4-{2-[[2,4-Bis(trifluoromethyl)benzyl](6-chloropyridazin-3-yl)amino]ethyl}phenoxy)-2-methylpropanoic acid | FC(C1=C(CN(CCC2=CC=C(OC(C(=O)O)(C)C)C=C2)C=2N=NC(=CC2)Cl)C=CC(=C1)C(F)(F)F)(F)F | C25H22ClF6N3O3
